US06875769B2
Trifluoro-methanesulfonic acid 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl ester
A mixture of 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-ol(416 mg, 1.5 mmol), triflic anhydride (508 ml., 1.8 mmol) and triethylamine (182 mg, 1.8 mmol) in 5 ml of methylene chloride was stirred at room temperature for 1 hour. The mixture was quenched with water and extracted with chloroform. The organic layer was washed with brine, dried and concentrated to give 587 mg of the title compound as a brown glass form. The material was used directly for the next reaction. 1H NMR (CDCl3) δ 8.02(d,1H), 7.65(t,1H), 7.55(d,1H), 7.24(s,1H), 6.97(s,2H), 2.62(s,3H), 2.37(s,3H), 1.85(s,6H)ppm.

reactant | 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-ol | 1.5 mmol, 416 mg | CC1=NC2=C(C=CC=C2C(=C1)O)C1=C(C=C(C=C1C)C)C | C19H19NO
reactant | triflic anhydride | 1.8 mmol, 508 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 1.8 mmol, 182 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl ester | 587 mg | CC1=NC2=C(C=CC=C2C(=C1)OS(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1C)C)C | C20H18F3NO3S
